datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.[H][S:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OC)[O:21]CC)CC>>CCCCCCN([C:20](=[O:10])OC)CC.[O-:21]CC 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C(C)N1C>>[NH:10]([H])C([H])C(C)N([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[O-:10]C(CCC)C([H])C(O)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(O)C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[CH2:5]1[CH2:6][CH2:7][N:3]([CH2:4]1)[CH:2]([C:8]2=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]2)[Br:1]>>[CH2:5]1[CH2:6][CH2:7][N+:3](=[CH:2][C:8]2=[CH:9][CH:10]=[CH:11][CH:12]=[CH:13]2)[CH2:4]1.[Br-:1] 3=2;2,1=1"
"[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(CC)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)=C(C)C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)/C(C)=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)OC.[H][O:10][Na]>>[H][O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OC 10=21;21,20=20"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CC)C)[O-:10])CC 21=20;20,10=10"
"[O-:10]C(CC)C([H])C(C)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)C([H])C(CC)[O:10]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[O:10][H].[H][O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([S]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
